US05523410
2(S)-(N,N-Dibenzylamino)-1-phenyl-3(S)-hydroxy- 6-methylheptane (25 g) was dissolved in methanol (250 ml), and 10% palladium-carbon (1.25 g) suspended in water (10 ml) was added thereto. Then, ammonium formate (15.70 g) was added thereto, and the mixture was stirred at ambient temperature for 5 hours, followed by concentration under reduced pressure. The residue was dissolved in methylene chloride and washed with water. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure to give 14.0 g of 2(S)-amino-1-phenyl-3(S)-hydroxy-6-methylheptane.

reactant | 2(S)-(N,N-Dibenzylamino)-1-phenyl-3(S)-hydroxy- 6-methylheptane | 25 g | C(C1=CC=CC=C1)N(CC1=CC=CC=C1)[C@@H](CC1=CC=CC=C1)[C@H](CCC(C)C)O | C28H35NO
reactant | ammonium formate | 15.70 g | C(=O)[O-].[NH4+]
solvent | methanol | 250 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
catalyst | palladium-carbon | 1.25 g | [C].[Pd]
product | 2(S)-amino-1-phenyl-3(S)-hydroxy-6-methylheptane | 14.0 g | N[C@@H](CC1=CC=CC=C1)[C@H](CCC(C)C)O | C14H23NO
